* c:\users\aditya\esim-workspace\sram\sram.cir

.include SRAM_Cell.sub
v1  wl gnd pulse(0 1.8 0 25p 25p 10n 20n)
v2  bl gnd pulse(0 1.8 0 25p 25p 15n 30n)
v3 net-_x1-pad1_ gnd  dc 1.8
* u1  wl plot_v1
* u2  bl plot_v1
* u5  not_bl plot_v1
* u4  q plot_v1
* u3  not_q plot_v1
r1  not_q gnd 1000k
r2  q gnd 1000k
v4  not_bl gnd pulse(1.8 0 0 25p 25p 15n 30n)
x1 net-_x1-pad1_ wl bl not_bl gnd q not_q SRAM_Cell
.tran 0.01e-09 80e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(wl)
plot v(bl)
plot v(not_bl)
plot v(q)
plot v(not_q)
.endc
.end
