* C:\FOSSEE\eSim\library\SubcircuitLibrary\TL783\TL783.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 02/01/25 21:18:33

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  ? Net-_M1-Pad3_ Net-_U1-PadOUT_ GND ? Net-_M1-Pad2_ ? ? lm_741		
U1  Net-_R1-Pad2_ Net-_U1-PadOUT_ zener		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ mosfet_n		
R1  Net-_M1-Pad3_ Net-_R1-Pad2_ 1k		
R2  Net-_R1-Pad2_ GND 39k		
U2  Net-_M1-Pad1_ Net-_M1-Pad3_ Net-_R1-Pad2_ PORT		
v1  Net-_M1-Pad1_ GND 53		

.end
