* D:\FOSSEE\eSim\library\SubcircuitLibrary\lm205\lm205.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 02/18/25 19:55:06

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_PNP		
Q4  Net-_Q4-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_PNP		
Q7  Net-_Q7-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_PNP		
R1  Net-_Q1-Pad2_ Net-_Q4-Pad1_ 2.8k		
R2  Net-_Q1-Pad3_ Net-_Q6-Pad1_ 600		
R3  Net-_Q2-Pad3_ Net-_Q10-Pad2_ 1.86k		
R4  Net-_Q6-Pad3_ Net-_Q10-Pad2_ 1.32k		
R6  Net-_Q11-Pad3_ Net-_Q17-Pad2_ 3k		
R7  Net-_Q17-Pad2_ Net-_Q16-Pad3_ 6.8k		
R8  Net-_Q16-Pad3_ Net-_Q20-Pad1_ 3k		
Q3  Net-_Q1-Pad2_ Net-_Q1-Pad2_ Net-_J1-Pad1_ eSim_NPN		
Q9  Net-_Q4-Pad1_ Net-_Q7-Pad1_ Net-_Q11-Pad2_ eSim_NPN		
Q14  Net-_Q11-Pad2_ Net-_Q11-Pad2_ Net-_Q11-Pad3_ eSim_NPN		
U2  Net-_C1-Pad2_ Net-_Q7-Pad1_ zener		
Q5  Net-_Q1-Pad3_ Net-_Q4-Pad1_ Net-_J1-Pad1_ eSim_NPN		
Q11  Net-_J1-Pad1_ Net-_Q11-Pad2_ Net-_Q11-Pad3_ eSim_NPN		
Q12  Net-_J1-Pad1_ Net-_Q11-Pad2_ Net-_Q12-Pad3_ eSim_NPN		
Q17  Net-_Q12-Pad3_ Net-_Q17-Pad2_ Net-_Q15-Pad3_ eSim_NPN		
Q19  Net-_C1-Pad1_ Net-_Q16-Pad3_ Net-_Q18-Pad3_ eSim_NPN		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 5p		
R9  Net-_Q18-Pad3_ Net-_C1-Pad2_ 2.2k		
Q20  Net-_Q20-Pad1_ Net-_Q20-Pad1_ Net-_C1-Pad2_ eSim_NPN		
J1  Net-_J1-Pad1_ Net-_C1-Pad2_ Net-_C1-Pad2_ jfet_n		
Q2  Net-_Q1-Pad3_ Net-_Q1-Pad1_ Net-_Q2-Pad3_ eSim_NPN		
Q10  Net-_Q1-Pad1_ Net-_Q10-Pad2_ Net-_Q10-Pad3_ eSim_NPN		
Q15  Net-_Q13-Pad3_ Net-_C1-Pad1_ Net-_Q15-Pad3_ eSim_NPN		
Q18  Net-_Q15-Pad3_ Net-_Q16-Pad2_ Net-_Q18-Pad3_ eSim_NPN		
R5  Net-_Q8-Pad3_ Net-_C1-Pad1_ 4.4k		
Q6  Net-_Q6-Pad1_ Net-_Q2-Pad3_ Net-_Q6-Pad3_ eSim_NPN		
Q13  Net-_Q1-Pad1_ Net-_Q1-Pad1_ Net-_Q13-Pad3_ eSim_NPN		
U1  Net-_Q1-Pad3_ Net-_Q6-Pad1_ Net-_Q6-Pad3_ Net-_Q10-Pad3_ Net-_Q13-Pad3_ Net-_Q16-Pad2_ Net-_Q16-Pad3_ Net-_C1-Pad2_ PORT		
Q8  Net-_J1-Pad1_ Net-_Q11-Pad2_ Net-_Q8-Pad3_ eSim_NPN		
Q16  Net-_Q13-Pad3_ Net-_Q16-Pad2_ Net-_Q16-Pad3_ eSim_NPN		

.end
