* d:\fossee\esim\library\subcircuitlibrary\ref5010_2\ref5010_2.cir

.include lm_741.sub
x1 ? net-_r1-pad2_ net-_r3-pad2_ net-_x1-pad4_ ? net-_r2-pad2_ net-_x1-pad7_ ? lm_741
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
r3  net-_r3-pad1_ net-_r3-pad2_ 10k
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
* u1  net-_i1-pad2_ ? net-_r2-pad2_ ? ? net-_r4-pad2_ net-_i1-pad1_ net-_r1-pad1_ port
v1  net-_r3-pad1_ net-_r1-pad1_ 1.2v
i1  net-_i1-pad1_ net-_i1-pad2_ 0.000001
r5  net-_i1-pad1_ net-_r1-pad1_ 60k
v2  net-_x1-pad7_ gnd 12v
v3  net-_x1-pad4_ gnd 12v
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
